US07141586B2
(4-Amino-cyclohexyl)-carbamic acid tert-butyl ester (80:20 syn:anti, 4.49 g, 20.9 mmol) was dissolved in dimethylformamide (100 ml) and triethylamine (8.34 ml, 59.8 mmol) was added followed by 5-fluoro-2-chloronicotinic acid (3.5 g, 19.9 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (4.2 g, 21.9 mmol) and 1-hydroxybenzotriazole (2.96 g, 21.9 mmol). The reaction was stirred under nitrogen at room temperature for 18 h and the solvent was removed under reduced pressure. The residue was partitioned between sat. sodium bicarbonate solution (50 ml) and ethyl acetate (100 ml) and the aqueous phase was extracted with dichloromethane (2×50 ml). The combined organic extracts were concentrated under reduced pressure, re-dissolved in dichloromethane (100 ml), washed with water (50 ml), dried over MgSO4 and the solvent was removed under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with a solvent gradient of ethyl acetate:pentane (2:3 changing to 1:1, by volume) to give {cis-4-[(2-Chloro-5-fluoro-pyridine-3-carbonyl)-amino]-cyclohexyl}-carbamic acid tert-butyl ester (5.44 g) as a white foam.

reactant | (4-Amino-cyclohexyl)-carbamic acid tert-butyl ester | 20.9 mmol, 4.49 g | C(C)(C)(C)OC(NC1CCC(CC1)N)=O | C11H22N2O2
reactant | triethylamine | 59.8 mmol, 8.34 ml | C(C)N(CC)CC | C6H15N
reactant | 5-fluoro-2-chloronicotinic acid | 19.9 mmol, 3.5 g | FC=1C=NC(=C(C(=O)O)C1)Cl | C6H3ClFNO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 21.9 mmol, 4.2 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 21.9 mmol, 2.96 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | {cis-4-[(2-Chloro-5-fluoro-pyridine-3-carbonyl)-amino]-cyclohexyl}-carbamic acid tert-butyl ester | 5.44 g | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)NC(=O)C=1C(=NC=C(C1)F)Cl)=O | C17H23ClFN3O3
